US07232821B2
3-{2-[5-Bromo-2-(2,4-difluorobenzyloxy)phenyl]cyclopent-1-enyl}-5-aminobenzoic acid methyl ester
Prepared by general procedure 3 but using 3-amino-5-(2-bromocyclopent-1-enyl)benzoic acid methyl ester instead of 3-(2-bromocyclopent-1-enyl)benzoic acid ethyl ester and 2-(2,4-difluorobenzyloxy)-5-bromophenylboronic acid instead of 5-chloro-2-methoxyphenylboronic acid.

reactant | 3-amino-5-(2-bromocyclopent-1-enyl)benzoic acid methyl ester | COC(C1=CC(=CC(=C1)C1=C(CCC1)Br)N)=O | C13H14BrNO2
reactant | 2-(2,4-difluorobenzyloxy)-5-bromophenylboronic acid | FC1=C(COC2=C(C=C(C=C2)Br)B(O)O)C=CC(=C1)F | C13H10BBrF2O3
product | 3-{2-[5-Bromo-2-(2,4-difluorobenzyloxy)phenyl]cyclopent-1-enyl}-5-aminobenzoic acid methyl ester | COC(C1=CC(=CC(=C1)N)C1=C(CCC1)C1=C(C=CC(=C1)Br)OCC1=C(C=C(C=C1)F)F)=O | C26H22BrF2NO3
